US09278915B2
Intermediate 82: 3-Methyl-5-(4-nitrophenyl)-1,2-oxazole
To a 100 mL RB flask fitted with magnetic stirrer was charged with 20 mL of tetrahydrofuran and water (10 mL). To the stirred solvent were added (2Z,3E)-N-hydroxy-4-(4-nitrophenyl)but-3-en-2-imine (0.5 g, 2.42 mmol), potassium iodide (0.81 g, 4.85 mmol), iodine (1.23 g, 4.49 mmol) and NaHCO3 (0.81 g, 9.7 mmol). The mixture was stirred at 100° C. overnight under nitrogen atmosphere. The reaction mixture was cooled, poured into water and extracted with ethyl acetate. The organic layer was washed with water (25 mL), sodium thiosulphate solution (30 mL) and saturated brine solution (30 mL). The organic layer was dried over anhydrous Na2SO4 and the solvent was removed under reduced pressure. The crude material was purified by silica gel column chromatography using ethyl acetate and petroleum ether as eluents. The product was obtained as yellow solid (0.31 g, yield: 62.6%). MS (ESI, 120 eV): m/z=205.1 (M+H)+; 1H NMR (300 MHz, CDCl3): δ 8.24-8.27 (t, 2H), 7.85-7.87 (t, 2H), 6.49 (s, 1H), 2.33 (s, 3H).

reactant | (2Z,3E)-N-hydroxy-4-(4-nitrophenyl)but-3-en-2-imine | 2.42 mmol, 0.5 g | O\N=C(\C)/C=C/C1=CC=C(C=C1)[N+](=O)[O-] | C10H10N2O3
reactant | potassium iodide | 4.85 mmol, 0.81 g | [I-].[K+]
reactant | iodine | 4.49 mmol, 1.23 g | II | I2
reactant | NaHCO3 | 9.7 mmol, 0.81 g | C(=O)(O)[O-].[Na+]
solvent | water | O | H2O
solvent | water | 10 mL | O | H2O
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | 3-Methyl-5-(4-nitrophenyl)-1,2-oxazole | 0.31 g, yield: 62.6% | CC1=NOC(=C1)C1=CC=C(C=C1)[N+](=O)[O-] | C10H8N2O3
